US08431563B2
A 5-mL vial was charged with tert-butyl (3R)-3-(((methylsulfonyl)(phenyl)amino)methyl)-4-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-1-piperazinecarboxylate (0.229 g, 0.373 mmol), TFA (1.0 mL, 13 mmol) and CH2Cl2 (2 mL). The mixture was stirred at room temperature for 35 min and then concentrated. CH2Cl2 (1 mL) was added to the residue followed by triethylamine (0.60 mL, 4.3 mmol). The mixture was stirred at room temperature for 10 min and then a solution of 5-nitrothiophene-2-sulfonyl chloride (0.104 g, 0.456 mmol, Enamine LLC, Monmouth Jct. NJ) in CH2Cl2 (1 mL) was added drop wise. After stirring at room temperature for 40 min, the mixture was concentrated and purified by column chromatography (50 g of silica gel, 0 to 60% EtOAc in hexanes) to afford N-(((2R)-4-((5-nitro-2-thiophenyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-phenylmethanesulfonamide (0.131 g) as a light-brown foam.

reactant | tert-butyl (3R)-3-(((methylsulfonyl)(phenyl)amino)methyl)-4-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-1-piperazinecarboxylate | 0.373 mmol, 0.229 g | CS(=O)(=O)N(C1=CC=CC=C1)C[C@H]1CN(CCN1C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC(C)(C)C | C24H29F6N5O5S
reactant | TFA | 13 mmol, 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylamine | 4.3 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | 5-nitrothiophene-2-sulfonyl chloride | 0.456 mmol, 0.104 g | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)Cl | C4H2ClNO4S2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(((2R)-4-((5-nitro-2-thiophenyl)sulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-N-phenylmethanesulfonamide | 0.131 g | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)CN(S(=O)(=O)C)C1=CC=CC=C1 | C23H22F6N6O7S3
